US09388161B2
A mixture of (S)-(5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.200 g, 0.49 mmol), 2,5-dibromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazole (0.178 g, 0.50 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.046 g, 0.06 mmol), and cesium carbonate (0.549 g, 1.68 mmol) in water (3 mL) and 1,4-dioxane (10 mL) stirred overnight at 80° C. The reaction mixture was cooled to room temperature and filtered through a short pad of celite, and the filtrate was concentrated under vacuum. The residue was purified by preparative thin layer chromatography (eluting with 50% ethyl acetate/petroleum ether) to afford ((S)-6-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.091 g, 32%) as a white solid. MS (ESI, pos. ion) m/z 560, 562 [M+H]+.

reactant | (S)-(5-cyclobutoxy-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.49 mmol, 0.200 g | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1B1OC(C(O1)(C)C)(C)C)C(=O)C1CC1)C | C24H34BNO4
reactant | 2,5-dibromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazole | 0.50 mmol, 0.178 g | BrC=1N(C(=CN1)Br)COCC[Si](C)(C)C | C9H16Br2N2OSi
reactant | cesium carbonate | 1.68 mmol, 0.549 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 3 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.06 mmol, 0.046 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | ((S)-6-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.091 g, 32% | BrC1=CN=C(N1COCC[Si](C)(C)C)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1CCC1 | C27H38BrN3O3Si
